Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:4]([O:5][H:13])[C:3]1([H:11])[H:12])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:14])[H:15],50.490837531702496
[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[C-:1](=[C:2]1[C:3]([H:8])=[O+:6][C:5]([H:11])([H:12])[C:4]1([H:9])[H:10])[H:7],52.9648458777905
[C+:2]([O:3][H:11])=[C:6]=[N-:7].[C:1]([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10],62.38700927174301
[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]3([H:9])[N:4]([H:10])[C@@:5]2([H:11])[C@:6]13[H:12]>>[N:1]1([H:7])[C+:2]([H:8])[C:5]([N:4]([C-:3][H:9])[H:10])([H:11])[C:6]1[H:12],39.6753386875778
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1](=[C:2]1\[O:3][O:7][C:6]([H:8])([H:12])[O:5][C:4]1([H:10])[H:11])\[H:9],111.245534073938
[C:1]([C:2](=[O:3])/[C:4](=[C:6](\[O:7][O:5][H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],24.218773757451203
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[N:1](=[C:2]=[C:3]([H:8])[H:9])[N+:7]#[C-:6].[O:4]=[C:5]([H:10])[H:11],84.9307139121553
[C:1]1([H:7])([H:8])[N:2]([H:9])[C:3]1=[C:4]([H:10])[H:11].[C:5](=[N:6][H:14])([H:12])[H:13]>>[C:1]1([H:7])([H:8])[N:2]([H:9])[C@:3]1([C@@:4]1([H:11])[C:5]([H:12])([H:13])[N:6]1[H:14])[H:10],72.0535751823753
[C:1]1([H:8])([H:9])[C@@:2]2([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@@:5]2([H:16])[C:6]1=[C:7]([H:10])[H:17]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[C:7][H:17])[H:16])([H:8])([H:9])[H:10],91.53280663424847
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:6]([N:5]([H:11])[H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9],120.953038999177
[C:1]([N+:3]([C-:2]([H:10])[H:11])=[C:4]([O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],38.318136400980606
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]1[C:3]([H:12])([H:13])[O:4][C:5]([H:11])([H:14])[O:7]1)([H:8])([H:9])[H:10].[C:6]([H:15])([H:16])[H:17],128.361801375471
[C:1]([O:2][C@:5]([C:3](=[O:4])[O:7][H:15])([C:6]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10],86.35608703461408
[N:1]([C:2](=[C:3]([N+:4]#[N:5])[H:9])[O-:6])([H:7])[H:8]>>[N:1]([C:2]([C:3]1([H:9])[N:4]=[N:5]1)=[O:6])([H:7])[H:8],52.367037539468896
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N:1]#[C:2][C+:3]=[C:4]([O-:5])[H:8].[N:6]#[N:7],32.1030443445365
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C-:4]=[C:5]([H:12])[C+:7]=[C:6]1[H:13])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8],28.8781213764143
[C:1]([C:4]([C:3]([C:2](=[C:6]([H:13])[H:14])[H:10])([H:11])[H:12])=[O:5])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9],100.17872787647153
[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([N:6]=[C:5]=[C:2]1[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],96.2503137092391
[C:2]1([H:9])=[C:7]([H:15])[C:6]([H:13])=[C:4]([O:5][H:12])[C:3]1([H:10])[H:11].[O:1]([H:8])[H:14]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],79.30469179831869
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([H:9])[H:10])[H:8].[N:3]#[N:4].[O+:5]#[C-:6],71.7997176394532
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:4](=[C:5]([H:12])[H:13])([H:10])[H:11].[C:6](=[O:7])([H:14])[H:15].[N:1]([C:2](=[O:3])[H:16])([H:8])[H:9],67.7682779176632
[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]1([H:9])[C@@:4]1([H:10])[N:5]([H:11])[C@@:6]21[H:12]>>[H:7][H:11].[N:1]1=[C:3]([H:9])[C@:2]1([C@@:6]1([H:12])[C:4]([H:10])=[N:5]1)[H:8],47.95172934637879
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9].[C:3]([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15],67.9377881928343
[C:1]([C:2]([C:3](=[O:4])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[N:5](=[C:6]([H:13])[H:14])[H:12]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],48.754898963280795
